US07157487B2
In xylene (10 ml), 2-bromo-6-methylbenzothiazole (703 mg, 3.08 mmol), methyl 4-amino-3-chlorophenylacetate (615 mg, 3.08 mmol), and pyridinium p-toluenesulfonate (PPTS) (232 mg, 0.92 mmol) were heated under reflux for 10 hours. After cooling, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (6:1, v/v) eluate fractions, methyl (3-chloro-4-(6-methyl-2-benzothiazolyl)aminophenyl)acetate (274 mg, 26%) was obtained as a pale yellow solid.

reactant | 2-bromo-6-methylbenzothiazole | 3.08 mmol, 703 mg | BrC=1SC2=C(N1)C=CC(=C2)C | C8H6BrNS
reactant | methyl 4-amino-3-chlorophenylacetate | 3.08 mmol, 615 mg | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
reactant | pyridinium p-toluenesulfonate | 0.92 mmol, 232 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl (3-chloro-4-(6-methyl-2-benzothiazolyl)aminophenyl)acetate | 274 mg, 26% | ClC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)C)CC(=O)OC | C17H15ClN2O2S
